US08426411B2
A round bottom flask was charged with 1-(-4-azido-2-ethylcyclopentyl)-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.650 g, 1.52 mmol, prepared using D from Preparation #25 with NaOH, KK, P with NaBH4, IIII, JJJJ with NaN3), THF (8.0 mL), and water (1.6 mL). To the flask was added triphenylphosphine (0.480 g, 1.83 mmol). The reaction mixture was heated to about 45° C. for about 7 h. The reaction mixture was cooled to room temperature and EtOAc (20 mL) and water (15 mL) were added. The layers were separated and the organic solution was dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure to give an oil that solidified upon standing. The crude material was purified via flash silica gel chromatography eluting with a gradient of 1-10% DCM/MeOH/DEA (900:90:10) in DCM. The product containing fractions were combined and concentrated under reduced pressure to give an oil that was then dried on a vacuum pump overnight to give 3-ethyl-4-(6((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine as a tacky oil (0.49 g, 80%): LC/MS (Table 1, Method b) Rt=1.85 min; MS m/z 401 (M+H)+.

reactant | 1-(-4-azido-2-ethylcyclopentyl)-6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 1.52 mmol, 0.650 g | N(=[N+]=[N-])C1CC(C(C1)C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)CC | C20H30N8OSi
reactant | THF | 8.0 mL | C1CCOC1 | C4H8O
reactant | triphenylphosphine | 1.83 mmol, 0.480 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 15 mL | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | water | 1.6 mL | O | H2O
product | 3-ethyl-4-(6((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine | 0.49 g, 80% | C(C)C1CC(CC1C1=NN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)N | C20H32N6OSi
